US06525070B2
4-(2-Carboxy-2-phenyl-ethyl)-piperazine-1-carboxylic acid tert-butyl ester
Piperazine-1-carboxylic acid tert-butyl ester (17.43 g) and 2-phenylacrylic acid (18 g) in iso-propanol (500 ml) was heated at reflux for four days. The resulting precipitate was filtered, washed with diethyl ether and dried under vacuum to give the title compound as a white solid (17 g; MS: APCI+(M+H) 335).

reactant | Piperazine-1-carboxylic acid tert-butyl ester | 17.43 g | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
reactant | 2-phenylacrylic acid | 18 g | C1(=CC=CC=C1)C(C(=O)O)=C | C9H8O2
solvent | iso-propanol | 500 ml | C(C)(C)O | C3H8O
product | 4-(2-Carboxy-2-phenyl-ethyl)-piperazine-1-carboxylic acid tert-butyl ester | 17 g | C(C)(C)(C)OC(=O)N1CCN(CC1)CC(C1=CC=CC=C1)C(=O)O | C18H26N2O4
